US07915424B2
3-(3-Chloro-4-fluorophenylethynyl)-5-methoxypyridine
Add bis(triphenylphosphine)palladium (II) dichloride (110 mg, 0.15 mmol), copper (I) iodide (57 mg, 0.30 mmol), and 3-ethynyl-5-methoxypyridine, (prepared as described in PREPARATION 10), (400 mg, 3.0 mmol) to a solution of 2-chloro-1-fluoro-4-iodobenzene (0.46 mL, 3.6 mmol) in triethylamine (6.3 mL, 45.0 mmol) and heat at 60° C. for 5 h. Cool to room temperature and concentrate. Purify the residue by silica gel chromatography, eluting with a gradient of 100:0 to 80:20 dichloromethane:ethyl acetate, followed by a second silica gel chromatography, eluting with 67:33 to 60:40 hexanes:ethyl acetate, to give the title compound as a white solid (730 mg, 93%).

reactant | 3-ethynyl-5-methoxypyridine | 3.0 mmol, 400 mg | C(#C)C=1C=NC=C(C1)OC | C8H7NO
reactant | 2-chloro-1-fluoro-4-iodobenzene | 3.6 mmol, 0.46 mL | ClC1=C(C=CC(=C1)I)F | C6H3ClFI
reactant | triethylamine | 45.0 mmol, 6.3 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium | 0.15 mmol, 110 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.30 mmol, 57 mg | [Cu]I
product | 3-(3-Chloro-4-fluorophenylethynyl)-5-methoxypyridine | 730 mg, 93% | ClC=1C=C(C=CC1F)C#CC=1C=NC=C(C1)OC | C14H9ClFNO
